US05006548
Preparation of 2-[3-(1H-imidazole-4-yl)acrylamido]benzoic acid (Compound 7) (Process a or d)
Methyl 2-[3-(1-t-butoxycarbonyl-1H-imidazole-4-yl)acrylamido]benzoate (168 mg) was dissolved in methanol (9 ml), 3N.HCl (2 ml) was added. The mixture was stirred at room temperature for 1 hour. Then, methanol was removed and the precipitated solid were filtered. The solid were again dissolved in methanol (9 ml), and 1N-NaOH (0.9 ml) was added. The mixture was reacted with stirring at 70° C. for 1 hour. After removing methanol, the mixture was treated with water and slightly acidified by KHSO4 under ice cooling to give white solids of the title compound (88 mg, yield, 76%). m.p., 263°-265° C.

reactant | Methyl 2-[3-(1-t-butoxycarbonyl-1H-imidazole-4-yl)acrylamido]benzoate | 168 mg | C(C)(C)(C)OC(=O)N1C=NC(=C1)C=CC(=O)NC1=C(C(=O)OC)C=CC=C1 | C19H21N3O5
reactant | HCl | 2 ml | Cl | ClH
solvent | methanol | 9 ml | CO | CH4O
product | 2-[3-(1H-imidazole-4-yl)acrylamido]benzoic acid | 88 mg, 76% | N1C=NC(=C1)C=CC(=O)NC1=C(C(=O)O)C=CC=C1 | C13H11N3O3
